US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(3-hydroxybut-1-yl)oxybenzamide
A stirred solution of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (2.86 g, 10 mmoles; prepared according to Preparation B), triphenylphosphine (2.62 g, 10 mmoles), (±) 1,3 butandiol (0.90 g, 10 mmoles) in dry tetrahydrofuran (50 ml) was treated dropwise with diethyl azodicarboxylate (1.75 g of 95% purity material, 10 mmoles). The solution was left to stir overnight. After evaporation of the solvent the residue was taken up in methylene chloride. The solution was washed with 0.4N NaOH, water, dried and the solvent evaporated. The residue was chromatographed over deactivated silica using methylene chloride (100), methanol (3), ammonium hydroxide (0.5) solvent system. The appropriate fractions were combined and the solvent evaporated. The residue was crystallized from methylene chloride-pentane to yield 1.05 g (29%) of the title compound. m.p. 136.5°-137.5° C. An additional amount of 0.56 g of material was obtained from the mother liquor after crystallization from toluene, followed by recrystallization from methylene chloride-pentate, and from a dilute solution of ethyl acetate, m.p. 135°-137° C.

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 10 mmoles, 2.86 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | triphenylphosphine | 10 mmoles, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (±) 1,3 butandiol | 10 mmoles, 0.90 g | C(CC(C)O)O | C4H10O2
reactant | diethyl azodicarboxylate | 10 mmoles, 1.75 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(3-hydroxybut-1-yl)oxybenzamide | 1.05 g, 29% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCCC(C)O | C17H28ClN3O3
